US06955851B2
2e. Bis(4-methoxyphenyl)-2,4,5-trimethylphenylphosphine oxide mixture.
A reaction flask under nitrogen containing magnesium turnings (120 g, 4.94 mol) and 412 mL THF was charged with 0.5 g of 1,2-dibromoethane and heated to reflux for 1 h. A separate flask was charged with 5-bromo-1,2,4-trimethylbenzene (300 g, 1.51 mol), dissolved in 568 mL of THF. The heat was removed from the first flask and the 5-bromo-1,2,4-trimethylbenzene solution was added dropwise at a rate to maintain reflux. 4-Bromoanisole (536.7 g, 3.01 mol) was then added over 1.5 h at 75° C. reaction temperature. After holding the reaction mixture overnight, POCl3 (231 g, 1.51 mol) was added dropwise at 40-80° C. The product mixture was isolated by aqueous workup to give 453.6 g (79% yield) of product mixture as a viscous liquid. The structure was consistent with NMR data.

reactant | magnesium | 4.94 mol, 120 g | [Mg] | Mg
reactant | 5-bromo-1,2,4-trimethylbenzene | 1.51 mol, 300 g | BrC=1C(=CC(=C(C1)C)C)C | C9H11Br
reactant | 4-Bromoanisole | 3.01 mol, 536.7 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | POCl3 | 1.51 mol, 231 g | O=P(Cl)(Cl)Cl | Cl3OP
solvent | THF | 568 mL | C1CCOC1 | C4H8O
catalyst | 1,2-dibromoethane | 0.5 g | BrCCBr | C2H4Br2
solvent | THF | 412 mL | C1CCOC1 | C4H8O
product | Bis(4-methoxyphenyl)-2,4,5-trimethylphenylphosphine oxide | 453.6 g, 79% yield | COC1=CC=C(C=C1)P(C1=C(C=C(C(=C1)C)C)C)(C1=CC=C(C=C1)OC)=O | C23H25O3P
